* File: AND4X1.pex.netlist.pex
* Created: Mon Jun  5 11:15:29 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND4X1%D_VDD 1 8 12 16 24 34 35 36 37
c30 37 0 0.226443f
c31 36 0 0.372557f
c32 35 0 0.190156f
c33 34 0 0.216985f
c34 27 0 0.202692f
c35 26 0 0.0701213f
c36 24 0 0.0701213f
c37 21 0 0.0701213f
c38 16 0 0.275542f
c39 12 0 0.422971f
c40 8 0 0.269938f
c41 4 0 0.239598f
r42 27 37 0.17
r43 25 36 0.288056
r44 25 26 0.0120155
r45 22 35 0.17
r46 22 24 0.0120155
r47 20 34 0.17
r48 20 21 0.0120155
r49 17 26 0.0329425
r50 13 24 0.0329425
r51 12 26 0.0329425
r52 9 21 0.0329425
r53 8 24 0.0329425
r54 4 21 0.0329425
r55 1 27 0.0245538
r56 1 16 0.0231095
r57 1 16 0.204
r58 1 17 0.051
r59 1 12 0.1445
r60 1 13 0.2125
r61 1 8 0.119
r62 1 9 0.1275
r63 1 4 0.068
.ends

.subckt PM_AND4X1%OUT2 2 5 9 13 17 18 20 29 31 34 38 42
c54 42 0 0.115952f
c55 38 0 0.238974f
c56 34 0 0.0735489f
c57 31 0 0.0534653f
c58 29 0 0.022722f
c59 27 0 0.0243811f
c60 20 0 0.166333f
c61 18 0 0.0473438f
c62 17 0 0.142454f
c63 14 0 0.0685456f
c64 13 0 0.224556f
c65 12 0 0.130854f
c66 9 0 0.598339f
c67 5 0 0.424325f
c68 2 0 0.106711f
r69 37 38 9.72222
r70 34 42 0.0566888
r71 30 37 12.5
r72 29 31 0.0519666
r73 29 30 7
r74 22 27 0.0359928
r75 22 31 0.10625
r76 19 27 0.00935391
r77 19 20 0.495833
r78 17 20 0.0474919
r79 17 18 0.255
r80 15 18 0.0474919
r81 15 42 0.36125
r82 13 27 0.0359928
r83 13 14 0.538333
r84 12 14 0.0474919
r85 12 26 0.247917
r86 7 38 6.3741
r87 7 9 189.583
r88 3 37 6.3741
r89 3 5 93.75
r90 2 26 0.0519666
.ends

.subckt PM_AND4X1%D_GND 1 4 5 11 14 26
c21 26 0 0.469403f
c22 14 0 0.646777f
c23 12 0 0.0701213f
c24 11 0 0.305784f
c25 5 0 0.153517f
c26 1 0 0.462247f
r27 18 26 0.0410992
r28 14 26 0.0410992
r29 11 12 0.0329425
r30 10 12 0.0329425
r31 6 12 0.0120155
r32 5 6 0.146389
r33 1 4 0.0708333
r34 1 26 0.00177083
r35 1 10 0.13175
r36 1 11 0.19975
r37 1 18 0.0765
r38 1 14 0.2635
.ends

.subckt PM_AND4X1%OUT 2 3 6 8 11 18
c32 18 0 0.341103f
c33 8 0 0.0563034f
c34 6 0 0.106449f
c35 3 0 0.0369565f
c36 2 0 0.0658768f
r37 12 18 0.165278
r38 11 12 0.0424497
r39 8 11 0.0161905
r40 6 16 0.460417
r41 4 8 0.0279513
r42 3 6 0.0474919
r43 3 4 0.0920833
r44 2 16 0.0519666
.ends

.subckt PM_AND4X1%OUT1 2 5 9 11 14 15 16 18 20 23 25 27 33
c56 27 0 0.0866678f
c57 25 0 0.042987f
c58 23 0 0.300762f
c59 20 0 0.126845f
c60 18 0 0.134849f
c61 16 0 0.00283117f
c62 15 0 0.106688f
c63 14 0 0.177579f
c64 11 0 0.0849073f
c65 9 0 0.399858f
c66 5 0 0.665939f
c67 2 0 0.101594f
r68 34 36 15.2778
r69 26 27 0.0779167
r70 23 36 18.0556
r71 22 25 0.0519666
r72 22 23 7
r73 20 27 0.00499195
r74 19 20 0.23375
r75 17 26 0.00499195
r76 17 18 0.389583
r77 15 18 0.0474919
r78 15 16 0.219583
r79 14 33 0.162535
r80 13 16 0.0474919
r81 13 14 0.325833
r82 11 26 0.0425
r83 11 25 0.354167
r84 7 36 6.3741
r85 7 9 93.75
r86 3 34 6.3741
r87 3 5 189.583
r88 2 19 0.0519666
.ends

.subckt PM_AND4X1%C 3 7 9 10 12
c15 12 0 0.080198f
c16 10 0 0.0830937f
c17 9 0 0.27964f
c18 7 0 0.349699f
c19 3 0 1.09095f
r20 12 15 7
r21 9 15 30.5556
r22 9 10 0.139
r23 5 10 14.6202
r24 5 7 77.0833
r25 1 10 14.6202
r26 1 3 306.25
.ends

.subckt PM_AND4X1%D 3 7 10 13
c24 13 0 0.141449f
c25 10 0 0.0428958f
c26 7 0 0.778201f
c27 3 0 0.62927f
r28 13 17 15.2843
r29 13 16 15.2843
r30 10 13 7
r31 7 17 218.75
r32 3 16 164.583
.ends

.subckt PM_AND4X1%B 3 7 14 19
c31 19 0 0.1987f
c32 14 0 0.024429f
c33 7 0 0.555921f
c34 3 0 0.760079f
r35 11 19 4.16667
r36 11 16 13.8889
r37 10 14 0.0283333
r38 10 11 7
r39 5 19 6.3741
r40 5 7 164.583
r41 1 16 6.3741
r42 1 3 218.75
.ends

.subckt PM_AND4X1%A 3 7 11 14
c23 14 0 0.0514663f
c24 11 0 0.164086f
c25 7 0 0.973541f
c26 3 0 0.3497f
r27 11 18 15.22
r28 11 17 15.22
r29 10 14 0.0283333
r30 10 11 7
r31 7 17 306.25
r32 3 18 77.0833
.ends

