* File: AND5X1.pex.netlist.pex
* Created: Mon Jun  5 11:16:10 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND5X1%D_VDD 1 8 12 16 39 40 41 42
c33 42 0 0.145243f
c34 41 0 0.307354f
c35 40 0 0.208633f
c36 39 0 0.211673f
c37 34 0 0.0701213f
c38 25 0 0.0701213f
c39 16 0 0.278443f
c40 12 0 0.422971f
c41 8 0 0.269938f
c42 4 0 0.19793f
c43 1 0 0.462196f
r44 33 42 0.17
r45 33 34 0.0120155
r46 30 41 0.160556
r47 26 40 0.17
r48 24 39 0.17
r49 24 25 0.0120155
r50 20 34 0.0329425
r51 16 34 0.0329425
r52 9 25 0.0329425
r53 4 25 0.0329425
r54 1 30 0.0120155
r55 1 12 0.0329425
r56 1 17 0.0329425
r57 1 26 0.0120155
r58 1 8 0.0329425
r59 1 13 0.0329425
r60 1 20 0.02125
r61 1 16 0.17425
r62 1 17 0.08075
r63 1 12 0.25075
r64 1 13 0.10625
r65 1 8 0.22525
r66 1 9 0.02125
r67 1 4 0.03825
.ends

.subckt PM_AND5X1%OUT2 2 5 9 13 17 25 29 32 36
c41 36 0 0.344038f
c42 32 0 0.19799f
c43 29 0 0.0735489f
c44 25 0 0.0269204f
c45 23 0 0.0259333f
c46 17 0 0.207058f
c47 14 0 0.0679876f
c48 13 0 0.0369536f
c49 12 0 0.0632228f
c50 9 0 0.754934f
c51 5 0 0.263817f
c52 2 0 0.106783f
r53 29 36 0.0566888
r54 26 32 12.5
r55 25 26 7
r56 18 23 0.0359928
r57 17 25 0.0519666
r58 17 18 0.538333
r59 15 23 0.00935391
r60 15 36 1.06958
r61 13 23 0.0359928
r62 13 14 0.155833
r63 12 14 0.0474919
r64 12 22 0.120417
r65 7 32 6.3741
r66 7 9 229.167
r67 3 32 6.3741
r68 3 5 54.1667
r69 2 22 0.0519666
.ends

.subckt PM_AND5X1%D_GND 1 4 5 11 14 28
c24 28 0 0.495935f
c25 14 0 0.575205f
c26 12 0 0.0701213f
c27 11 0 0.309758f
c28 5 0 0.153543f
c29 1 0 0.63315f
r30 18 28 0.0461432
r31 14 28 0.0461432
r32 11 12 0.0329425
r33 10 12 0.0329425
r34 6 12 0.0120155
r35 5 6 0.146389
r36 1 4 0.062963
r37 1 28 0.00157407
r38 1 10 0.13175
r39 1 11 0.19975
r40 1 18 0.08075
r41 1 14 0.23375
.ends

.subckt PM_AND5X1%OUT 2 3 4 10 14
c28 14 0 0.403233f
c29 4 0 0.211325f
c30 3 0 0.0535778f
c31 2 0 0.177877f
r32 12 14 0.165278
r33 11 12 0.0173936
r34 10 11 0.0909465
r35 4 11 0.0373704
r36 3 5 0.0474919
r37 3 4 0.103889
r38 2 5 0.292778
.ends

.subckt PM_AND5X1%OUT1 2 3 5 8 13 14 15 16 17 19 22 25 29 31 40 41 43 47 51
c71 51 0 0.0405352f
c72 47 0 0.0233887f
c73 43 0 0.428477f
c74 41 0 0.110313f
c75 40 0 0.0739678f
c76 33 0 0.0146004f
c77 31 0 0.0083155f
c78 29 0 0.0255307f
c79 25 0 0.0447524f
c80 22 0 0.119429f
c81 19 0 0.106895f
c82 17 0 0.0312561f
c83 16 0 0.0440378f
c84 15 0 0.0257626f
c85 14 0 0.194335f
c86 13 0 0.0420856f
c87 8 0 0.447333f
c88 3 0 0.560802f
c89 2 0 0.105512f
r90 42 43 18.1159
r91 41 51 0.0566888
r92 40 47 0.0566888
r93 30 43 9.05797
r94 29 32 0.0522107
r95 29 31 0.0522107
r96 29 30 7
r97 26 51 0.085
r98 25 37 0.184167
r99 23 33 0.00935391
r100 22 26 0.0474919
r101 22 23 0.410833
r102 20 33 0.0359928
r103 20 47 0.085
r104 19 33 0.0359928
r105 18 19 0.332917
r106 16 18 0.0474919
r107 16 17 0.113333
r108 14 25 0.0474919
r109 14 15 0.566667
r110 13 17 0.0474919
r111 13 32 0.19125
r112 10 15 0.0474919
r113 10 31 0.0991667
r114 6 43 10.2589
r115 6 8 108.333
r116 3 42 10.2589
r117 3 5 150
r118 2 37 0.0519666
.ends

.subckt PM_AND5X1%C 3 7 9 10 12
c14 12 0 0.0719319f
c15 10 0 0.0830556f
c16 9 0 0.216798f
c17 7 0 0.349674f
c18 3 0 1.11435f
r19 12 15 7
r20 9 15 20.8333
r21 9 10 0.139
r22 5 10 14.6202
r23 5 7 77.0833
r24 1 10 14.6202
r25 1 3 306.25
.ends

.subckt PM_AND5X1%D 3 7 10 13
c20 13 0 0.174253f
c21 10 0 0.038375f
c22 7 0 0.57076f
c23 3 0 0.842282f
r24 13 17 15.219
r25 13 16 15.219
r26 10 13 7
r27 7 17 147.917
r28 3 16 235.417
.ends

.subckt PM_AND5X1%E 3 5 7 10
c30 10 0 0.038987f
c31 7 0 0.533613f
c32 5 0 0.353247f
c33 3 0 0.7083f
r34 10 13 7
r35 5 13 3.65497
r36 5 7 158.333
r37 1 5 24.3665
r38 1 3 193.75
.ends

.subckt PM_AND5X1%B 1 3 7 10 13 16
c32 16 0 0.0260496f
c33 13 0 0.124769f
c34 10 0 0.331359f
c35 7 0 0.297634f
c36 3 0 0.436491f
c37 1 0 0.370167f
r38 16 19 7
r39 11 13 16.6667
r40 10 19 15.2126
r41 9 13 1.46822
r42 9 10 116.667
r43 5 11 1.46822
r44 5 7 87.5
r45 1 19 39.6468
r46 1 3 108.333
.ends

.subckt PM_AND5X1%A 1 3 6 11 14 18 21 24 27
c25 27 0 0.557726f
c26 24 0 0.148731f
c27 21 0 0.0497951f
c28 18 0 0.134435f
c29 14 0 0.166061f
c30 11 0 0.232575f
c31 6 0 0.264833f
c32 1 0 0.169459f
r33 24 28 15.2843
r34 24 27 15.2843
r35 21 24 7
r36 16 18 16.6667
r37 12 14 33.3333
r38 11 18 1.46822
r39 11 28 68.75
r40 8 14 1.46822
r41 8 27 172.917
r42 4 16 1.46822
r43 4 6 54.1667
r44 1 12 1.46822
r45 1 3 31.25
.ends

