* File: AND6X1.pex.netlist.pex
* Created: Mon Jun  5 11:17:07 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND6X1%D_VDD 1 4 8 12 16 29 39 40 41 42
c36 42 0 0.151776f
c37 41 0 0.390891f
c38 40 0 0.212273f
c39 39 0 0.151301f
c40 31 0 0.0701213f
c41 29 0 0.0701213f
c42 16 0 0.279094f
c43 12 0 0.422971f
c44 8 0 0.271023f
c45 4 0 0.42402f
c46 1 0 0.579011f
r47 32 42 0.17
r48 30 41 0.288056
r49 30 31 0.0120155
r50 27 40 0.174722
r51 27 29 0.0120155
r52 24 39 0.174722
r53 17 31 0.0329425
r54 13 29 0.0329425
r55 12 31 0.0329425
r56 8 29 0.0329425
r57 1 32 0.0120155
r58 1 16 0.0329425
r59 1 20 0.0329425
r60 1 24 0.0120155
r61 1 4 0.0329425
r62 1 9 0.0329425
r63 1 20 0.102
r64 1 16 0.2295
r65 1 17 0.0255
r66 1 12 0.17
r67 1 13 0.187
r68 1 8 0.1445
r69 1 9 0.102
r70 1 4 0.2295
.ends

.subckt PM_AND6X1%OUT2 2 5 9 11 12 14 16 21 24 33 35 39 40 45
c66 45 0 0.0601668f
c67 40 0 0.071538f
c68 39 0 0.111629f
c69 35 0 0.314105f
c70 33 0 0.0267407f
c71 31 0 0.0594941f
c72 30 0 0.0398649f
c73 24 0 0.0330716f
c74 21 0 0.162308f
c75 16 0 0.416758f
c76 14 0 0.127373f
c77 12 0 0.0672065f
c78 11 0 0.412406f
c79 9 0 0.613026f
c80 5 0 0.365409f
c81 2 0 0.1031f
r82 39 45 0.0424497
r83 33 35 0.0519666
r84 33 34 7
r85 24 40 0.0566888
r86 23 24 0.0991667
r87 22 31 0.015029
r88 21 23 0.0474919
r89 21 22 0.453333
r90 20 30 0.00935391
r91 20 35 0.814583
r92 17 31 0.0297796
r93 17 45 0.0661111
r94 16 31 0.0297796
r95 15 30 0.0359928
r96 15 16 0.772083
r97 14 30 0.0359928
r98 13 25 0.0216719
r99 13 14 0.226667
r100 11 34 59.7222
r101 11 12 0.139
r102 7 12 14.6202
r103 7 9 195.833
r104 3 12 14.6202
r105 3 5 87.5
r106 2 25 0.0188889
.ends

.subckt PM_AND6X1%D_GND 1 4 5 11 14 30
c22 30 0 0.518956f
c23 14 0 0.855143f
c24 12 0 0.0701213f
c25 11 0 0.303809f
c26 5 0 0.158108f
c27 1 0 0.749338f
r28 20 30 0.0461432
r29 14 30 0.0461432
r30 11 12 0.0329425
r31 10 12 0.0329425
r32 6 12 0.0120155
r33 5 6 0.146389
r34 1 4 0.062963
r35 1 30 0.00157407
r36 1 10 0.2125
r37 1 11 0.119
r38 1 20 0.1615
r39 1 14 0.153
.ends

.subckt PM_AND6X1%OUT 2 3 5 7 8 9 15
c34 15 0 0.405509f
c35 9 0 0.135767f
c36 8 0 0.0217765f
c37 7 0 0.120323f
c38 3 0 0.173558f
r39 10 15 0.165278
r40 9 11 0.0869248
r41 9 10 0.0222395
r42 8 11 0.0222395
r43 7 8 0.103889
r44 3 9 0.0379177
r45 3 5 0.122778
r46 2 7 0.113313
.ends

.subckt PM_AND6X1%OUT1 2 5 9 11 15 16 22 24 27 29 44 45 52 56
c61 56 0 0.089794f
c62 52 0 0.050443f
c63 45 0 0.102062f
c64 44 0 0.0739833f
c65 40 0 0.0849047f
c66 37 0 0.0390046f
c67 31 0 0.0778496f
c68 29 0 0.0329383f
c69 27 0 0.250707f
c70 24 0 0.219019f
c71 22 0 0.0932809f
c72 20 0 0.138368f
c73 16 0 0.0389338f
c74 15 0 0.10322f
c75 11 0 0.243302f
c76 9 0 0.399848f
c77 5 0 0.672825f
c78 2 0 0.106711f
r79 45 56 0.0566888
r80 44 52 0.0566888
r81 38 40 0.0566667
r82 30 31 0.0708333
r83 27 46 25
r84 26 29 0.0519666
r85 26 27 7
r86 24 31 0.00499195
r87 23 40 0.00499195
r88 23 24 0.40375
r89 22 38 0.00499195
r90 21 37 0.0359928
r91 21 22 0.177083
r92 20 37 0.0359928
r93 20 36 0.262083
r94 17 30 0.00499195
r95 17 56 0.177083
r96 15 30 0.0425
r97 15 16 0.410833
r98 13 16 0.0474919
r99 13 52 0.177083
r100 11 37 0.00935391
r101 11 29 0.715417
r102 7 27 6.3741
r103 7 9 93.75
r104 3 46 6.3741
r105 3 5 189.583
r106 2 36 0.0519666
.ends

.subckt PM_AND6X1%C 3 7 10 13
c22 13 0 0.154356f
c23 10 0 0.0161188f
c24 7 0 0.543727f
c25 3 0 0.78893f
r26 13 17 15.22
r27 13 16 15.22
r28 10 13 7
r29 7 17 145.833
r30 3 16 229.167
.ends

.subckt PM_AND6X1%D 3 7 10 13
c25 13 0 0.143333f
c26 10 0 0.0201247f
c27 7 0 0.545543f
c28 3 0 0.792846f
r29 13 17 15.2843
r30 13 16 15.2843
r31 10 13 7
r32 7 17 145.833
r33 3 16 229.167
.ends

.subckt PM_AND6X1%F 7 11 14 15 16 19 21 24
c35 24 0 0.325653f
c36 21 0 0.0298944f
c37 19 0 0.144155f
c38 16 0 0.123861f
c39 15 0 0.107405f
c40 14 0 0.106486f
c41 11 0 0.372542f
c42 7 0 0.407339f
r43 19 25 15.2843
r44 19 24 15.2843
r45 19 21 7
r46 15 16 17.6176
r47 15 25 33.3333
r48 14 24 104.167
r49 13 14 17.6176
r50 11 16 87.5
r51 7 13 100
.ends

.subckt PM_AND6X1%E 3 7 10 18
c24 18 0 0.26025f
c25 10 0 0.0242883f
c26 7 0 0.537336f
c27 3 0 0.799658f
r28 13 18 13.8889
r29 13 15 13.8889
r30 10 13 7
r31 5 18 6.3741
r32 5 7 158.333
r33 1 15 6.3741
r34 1 3 218.75
.ends

.subckt PM_AND6X1%B 3 7 10 13
c23 13 0 0.159767f
c24 10 0 0.0137962f
c25 7 0 0.712632f
c26 3 0 0.556586f
r27 13 17 15.22
r28 13 16 15.22
r29 10 13 7
r30 7 16 229.167
r31 3 17 147.917
.ends

.subckt PM_AND6X1%A 3 7 10 13
c22 13 0 0.144155f
c23 10 0 0.0186338f
c24 7 0 0.541341f
c25 3 0 0.746389f
r26 13 17 15.2843
r27 13 16 15.2843
r28 10 13 7
r29 7 17 147.917
r30 3 16 229.167
.ends

