* File: AO21X1.pex.netlist
* Created: Mon Jun  5 11:18:03 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* 
.include "AO21X1.pex.netlist.pex"
.subckt AO21X1  D_VDD D_GND OUT B A C
* 
* C	C
* A	A
* B	B
* OUT	OUT
* D_GND	D_GND
* D_VDD	D_VDD
M_ENM1 N_N$2_M_ENM1_d N_A_M_ENM1_g N$7 N_D_GND_M_ENM1_b enm L=6e-07 W=1.6e-06
+ AD=1.92e-12 AS=4.8e-13 PD=5.6e-06 PS=2.2e-06 NRD=0.75 NRS=0.1875
M_ENM2 N$7 N_B_M_ENM2_g N_D_GND_M_ENM2_s N_D_GND_M_ENM1_b enm L=6e-07 W=1.6e-06
+ AD=4.8e-13 AS=1.30462e-12 PD=2.2e-06 PS=3.69231e-06 NRD=0.1875 NRS=0.509615
M_ENM3 N_AND_O_M_ENM3_d N_N$2_M_ENM3_g N_D_GND_M_ENM2_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=1e-06 AD=1.41e-12 AS=8.15385e-13 PD=4.8e-06 PS=2.30769e-06 NRD=1.41
+ NRS=0.815385
M_ENM5 N_N$32_M_ENM5_d N_C_M_ENM5_g N_D_GND_M_ENM5_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=7.65e-13 PD=4.8e-06 PS=2.6e-06 NRD=2.14062
+ NRS=1.19531
M_ENM4 N_N$32_M_ENM4_d N_AND_O_M_ENM4_g N_D_GND_M_ENM5_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=7.65e-13 PD=4.8e-06 PS=2.6e-06 NRD=2.14062
+ NRS=1.19531
M_ENM6 N_OUT_M_ENM6_d N_N$32_M_ENM6_g N_D_GND_M_ENM6_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=1e-06 AD=1.41e-12 AS=1.41e-12 PD=4.8e-06 PS=4.8e-06 NRD=1.41
+ NRS=1.41
M_EPM2 N_N$2_M_EPM2_d N_A_M_EPM2_g N_D_VDD_M_EPM2_s N_D_VDD_M_EPM2_b epm L=6e-07
+ W=1.6e-06 AD=1.04e-12 AS=1.92e-12 PD=2.9e-06 PS=5.6e-06 NRD=0.40625 NRS=0.75
M_EPM1 N_N$2_M_EPM2_d N_B_M_EPM1_g N_D_VDD_M_EPM1_s N_D_VDD_M_EPM2_b epm L=6e-07
+ W=1.6e-06 AD=1.04e-12 AS=1.04e-12 PD=2.9e-06 PS=2.9e-06 NRD=0.40625
+ NRS=0.40625
M_EPM3 N_AND_O_M_EPM3_d N_N$2_M_EPM3_g N_D_VDD_M_EPM1_s N_D_VDD_M_EPM2_b epm
+ L=6e-07 W=1.6e-06 AD=1.92e-12 AS=1.04e-12 PD=5.6e-06 PS=2.9e-06 NRD=0.75
+ NRS=0.40625
M_EPM4 N_N$32_M_EPM4_d N_C_M_EPM4_g N$21 N_D_VDD_M_EPM2_b epm L=6e-07 W=3.2e-06
+ AD=3.84e-12 AS=9.6e-13 PD=8.8e-06 PS=3.8e-06 NRD=0.375 NRS=0.09375
M_EPM5 N$21 N_AND_O_M_EPM5_g N_D_VDD_M_EPM5_s N_D_VDD_M_EPM2_b epm L=6e-07
+ W=3.2e-06 AD=9.6e-13 AS=2.77333e-12 PD=3.8e-06 PS=6.13333e-06 NRD=0.09375
+ NRS=0.270833
M_EPM6 N_OUT_M_EPM6_d N_N$32_M_EPM6_g N_D_VDD_M_EPM5_s N_D_VDD_M_EPM2_b epm
+ L=6e-07 W=1.6e-06 AD=1.92e-12 AS=1.38667e-12 PD=5.6e-06 PS=3.06667e-06
+ NRD=0.75 NRS=0.541667
*
.include "AO21X1.pex.netlist.AO21X1.pxi"
*
.ends
*
*
