* File: AO22X1.pex.netlist
* Created: Mon Jun  5 11:20:30 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* 
.include "AO22X1.pex.netlist.pex"
.subckt AO22X1  D_VDD D_GND OUT C D B A
* 
* A	A
* B	B
* D	D
* C	C
* OUT	OUT
* D_GND	D_GND
* D_VDD	D_VDD
M_ENM4 N_N$12_M_ENM4_d N_C_M_ENM4_g N$17 N_D_GND_M_ENM4_b enm L=6e-07 W=1.6e-06
+ AD=1.92e-12 AS=4.8e-13 PD=5.6e-06 PS=2.2e-06 NRD=0.75 NRS=0.1875
M_ENM5 N$17 N_D_M_ENM5_g N_D_GND_M_ENM5_s N_D_GND_M_ENM4_b enm L=6e-07 W=1.6e-06
+ AD=4.8e-13 AS=1.38667e-12 PD=2.2e-06 PS=4e-06 NRD=0.1875 NRS=0.541667
M_ENM6 N_AND_O2_M_ENM6_d N_N$12_M_ENM6_g N_D_GND_M_ENM5_s N_D_GND_M_ENM4_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=6.93333e-13 PD=4.8e-06 PS=2e-06 NRD=2.14062
+ NRS=1.08333
M_ENM8 N_N$21_M_ENM8_d N_AND_O2_M_ENM8_g N_D_GND_M_ENM8_s N_D_GND_M_ENM4_b enm
+ L=6e-07 W=8e-07 AD=7.65e-13 AS=1.37e-12 PD=2.6e-06 PS=4.8e-06 NRD=1.19531
+ NRS=2.14062
M_ENM7 N_N$21_M_ENM8_d N_AND_O1_M_ENM7_g N_D_GND_M_ENM7_s N_D_GND_M_ENM4_b enm
+ L=6e-07 W=8e-07 AD=7.65e-13 AS=1.81e-12 PD=2.6e-06 PS=4.5e-06 NRD=1.19531
+ NRS=2.82812
M_ENM9 N_OUT_M_ENM9_d N_N$21_M_ENM9_g N_D_GND_M_ENM7_s N_D_GND_M_ENM4_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=1.81e-12 PD=4.8e-06 PS=4.5e-06 NRD=2.14062
+ NRS=2.82812
M_ENM3 N_AND_O1_M_ENM3_d N_N$2_M_ENM3_g N_D_GND_M_ENM3_s N_D_GND_M_ENM4_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=8.26667e-13 PD=4.8e-06 PS=2.16667e-06
+ NRD=2.14062 NRS=1.29167
M_ENM2 N$7 N_B_M_ENM2_g N_D_GND_M_ENM3_s N_D_GND_M_ENM4_b enm L=6e-07 W=1.6e-06
+ AD=4.8e-13 AS=1.65333e-12 PD=2.2e-06 PS=4.33333e-06 NRD=0.1875 NRS=0.645833
M_ENM1 N_N$2_M_ENM1_d N_A_M_ENM1_g N$7 N_D_GND_M_ENM4_b enm L=6e-07 W=1.6e-06
+ AD=1.92e-12 AS=4.8e-13 PD=5.6e-06 PS=2.2e-06 NRD=0.75 NRS=0.1875
M_EPM5 N_N$12_M_EPM5_d N_C_M_EPM5_g N_D_VDD_M_EPM5_s N_D_VDD_M_EPM5_b epm
+ L=6e-07 W=1.6e-06 AD=1.04e-12 AS=1.92e-12 PD=2.9e-06 PS=5.6e-06 NRD=0.40625
+ NRS=0.75
M_EPM4 N_N$12_M_EPM5_d N_D_M_EPM4_g N_D_VDD_M_EPM4_s N_D_VDD_M_EPM5_b epm
+ L=6e-07 W=1.6e-06 AD=1.04e-12 AS=1.04e-12 PD=2.9e-06 PS=2.9e-06 NRD=0.40625
+ NRS=0.40625
M_EPM6 N_AND_O2_M_EPM6_d N_N$12_M_EPM6_g N_D_VDD_M_EPM4_s N_D_VDD_M_EPM5_b epm
+ L=6e-07 W=1.6e-06 AD=1.92e-12 AS=1.04e-12 PD=5.6e-06 PS=2.9e-06 NRD=0.75
+ NRS=0.40625
M_EPM7 N_N$21_M_EPM7_d N_AND_O2_M_EPM7_g N$23 N_D_VDD_M_EPM5_b epm L=6e-07
+ W=3.2e-06 AD=3.84e-12 AS=1.04e-12 PD=8.8e-06 PS=3.85e-06 NRD=0.375
+ NRS=0.101562
M_EPM8 N$23 N_AND_O1_M_EPM8_g N_D_VDD_M_EPM8_s N_D_VDD_M_EPM5_b epm L=6e-07
+ W=3.2e-06 AD=1.04e-12 AS=2.77333e-12 PD=3.85e-06 PS=6.13333e-06 NRD=0.101562
+ NRS=0.270833
M_EPM9 N_OUT_M_EPM9_d N_N$21_M_EPM9_g N_D_VDD_M_EPM8_s N_D_VDD_M_EPM5_b epm
+ L=6e-07 W=1.6e-06 AD=1.92e-12 AS=1.38667e-12 PD=5.6e-06 PS=3.06667e-06
+ NRD=0.75 NRS=0.541667
M_EPM3 N_AND_O1_M_EPM3_d N_N$2_M_EPM3_g N_D_VDD_M_EPM3_s N_D_VDD_M_EPM5_b epm
+ L=6e-07 W=1.6e-06 AD=1.92e-12 AS=2.195e-12 PD=5.6e-06 PS=5.15e-06 NRD=0.75
+ NRS=0.857422
M_EPM1 N_N$2_M_EPM1_d N_B_M_EPM1_g N_D_VDD_M_EPM3_s N_D_VDD_M_EPM5_b epm L=6e-07
+ W=1.6e-06 AD=1.04e-12 AS=2.195e-12 PD=2.9e-06 PS=5.15e-06 NRD=0.40625
+ NRS=0.857422
M_EPM2 N_N$2_M_EPM1_d N_A_M_EPM2_g N_D_VDD_M_EPM2_s N_D_VDD_M_EPM5_b epm L=6e-07
+ W=1.6e-06 AD=1.04e-12 AS=1.92e-12 PD=2.9e-06 PS=5.6e-06 NRD=0.40625 NRS=0.75
*
.include "AO22X1.pex.netlist.AO22X1.pxi"
*
.ends
*
*
